US07253286B2
4-(4-Aminophenoxy)-3-(1-ethynyl)-2-pyridinamine
3-(1-Ethynyl)-4-(4-nitrophenoxy)-2-pyridinamine (400 mg), iron powder (800 mg), ammonium chloride (1.6 g), dimethylformamide (3 ml), ethanol (1 ml) and water (1 ml) were stirred at 100° C. for 30 minutes. The mixture was filtered with celite, and then water and ethyl acetate were added to the filtrate for extraction. The organic layer was washed 5 times with aqueous ammonium chloride solution and then dried over magnesium sulfate. The drying agent was filtered off and the solvent was distilled off under reduced pressure to obtain 260 mg of the target substance as a brown solid.

reactant | 3-(1-Ethynyl)-4-(4-nitrophenoxy)-2-pyridinamine | 400 mg | C(#C)C=1C(=NC=CC1OC1=CC=C(C=C1)[N+](=O)[O-])N | C13H9N3O3
reactant | ammonium chloride | 1.6 g | [Cl-].[NH4+]
reactant | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
reactant | ethanol | 1 ml | C(C)O | C2H6O
catalyst | iron | 800 mg | [Fe] | Fe
solvent | water | 1 ml | O | H2O
product | 4-(4-Aminophenoxy)-3-(1-ethynyl)-2-pyridinamine | NC1=CC=C(OC2=C(C(=NC=C2)N)C#C)C=C1 | C13H11N3O
